US07696223B2
a) 7-Cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
To a suspension of 7-cyano-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (0.66 g, 1.78 mmol), example 96(f), and ammonium formate (2.25 g, 35.7 mmol) in 62 mL of ethyl acetate was added 10 wt. % palladium on carbon (312 mg). The reaction mixture was refluxed for 1 h. The catalyst was filtered off, and the filtrate was concentrated to afford 0.48 g of a white solid. MS: (+) m/z 302.3 (M+1).

reactant | 7-cyano-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1.78 mmol, 0.66 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Cl)Cl)CCC(C)C)O | C16H17Cl2N3O3
reactant | ammonium formate | 35.7 mmol, 2.25 g | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 62 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 312 mg | [Pd] | Pd
product | 7-Cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.48 g | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2)CCC(C)C)O | C16H19N3O3
